US05852019
(1) 1-(2,5-Dichlorophenyl)piperazine hydrochloride
7.14 g of bis(2-chloroethyl)amine hydrochloride was suspended in 70 ml of butanol and 6.48 g of 2,5-dichloroaniline was added thereto at room temperature. After heating under reflux for 48 hours, the reaction mixture was cooled and 5.52 g of potassium carbonate was added. After heating under reflux for additional 24 hours, the insoluble matters were filtered off and the filtrate was concentrated. Then the obtained residue was extracted with chloroform and a saturated aqueous solution of sodium hydrogencarbonate. The extract was washed with water and a saturated aqueous solution of sodium chloride, and dried over anhydrous sodium sulfate. After evaporating the solvent, the residue was purified by silica gel column chromatography (100 g, chloroform:methanol=50:1-30:1). The product was converted into hydrochloride by adding a 1N hydrochloric acid/ethanol solution to thereby give 1.41 g of the title compound.

reactant | bis(2-chloroethyl)amine hydrochloride | 7.14 g | Cl.ClCCNCCCl
reactant | 2,5-dichloroaniline | 6.48 g | ClC1=C(N)C=C(C=C1)Cl | C6H5Cl2N
reactant | potassium carbonate | 5.52 g | C([O-])([O-])=O.[K+].[K+]
solvent | butanol | 70 ml | C(CCC)O | C4H10O
product | 1-(2,5-Dichlorophenyl)piperazine hydrochloride | 1.41 g | Cl.ClC1=C(C=C(C=C1)Cl)N1CCNCC1 | InChI=1S/C10H12Cl2N2.ClH/c11-8-1-2-9(12)10(7-8)14-5-3-13-4-6-14;/h1-2,7,13H,3-6H2;1H
